US07888349B2
Triethylamine (2.32 mL, 16.7 mmol) was added to a suspension of 9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine hydrochloride (1.61 g, 5.56 mmol, Example 7 Part A) in DMF (20 mL). The mixture was sonicated for ten minutes at 80° C., and methanesulfonyl chloride (764 mg, 6.67 mmol) was slowly added. The mixture was stirred at ambient temperature overnight. The solvent was removed under reduced pressure. Unsuccessful attempts were made to purify the product, and ultimately, the product was isolated by filtration to provide 894 mg of 9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine containing some impurities.

reactant | Triethylamine | 16.7 mmol, 2.32 mL | C(C)N(CC)CC | C6H15N
reactant | 9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine hydrochloride | Cl.C1=C2C3=C(C(=NC2=CC=C1)N)N=C1N3CCCNC1
reactant | methanesulfonyl chloride | 6.67 mmol, 764 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine | 894 mg | CS(=O)(=O)N1CC=2N(C3=C(C(=NC4=CC=CC=C34)N)N2)CCC1 | C15H17N5O2S
